US04855307
4-(4-Acetoxy-4-(4-chlorophenyl)-1-piperidinyl)-1-(4-fluorophenyl)-1-butanone (Haloperidol-acetate)
4-(4-(4-Chlorophenyl)-4-hydroxy-1-piperidinyl)-1-(4-fluorophenyl)-1-butanone (20 g) and acetic acid anhydride (16 g) in 200 ml of dried pyridine (KOH pellets) were refluxed for 2 h. The mixture was poured into cold H2O (0° C.) (2 liters) and extracted with isopropylether (2×200 ml). The combined organic phases were dried (MgSO4) and the solvent evaporated. The title compound was obtained after column chromatography on silica gel (eluent, ethyl acetate/dichloromethane/methanol, 1:1:1). Yield 10.6 g (48%). Mp 106°-110° C. (from isopropyl ether). The hydrochloride salt was precipitated from acetone. Mp 215° C. According to TLC analysis the content of Haloperidol was 0.5%.

reactant | 4-(4-(4-Chlorophenyl)-4-hydroxy-1-piperidinyl)-1-(4-fluorophenyl)-1-butanone | 20 g | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)O | C21H23ClFNO2
reactant | acetic acid anhydride | 16 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2O | 2 liters | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-Acetoxy-4-(4-chlorophenyl)-1-piperidinyl)-1-(4-fluorophenyl)-1-butanone | C(C)(=O)OC1(CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C23H25ClFNO3
